US08461134B2
A solution of 2,2,2-trifluoro-N-(3-(2-(methylthio)ethyl)phenyl)acetamide (4 g, 15 mmol) and m-CPBA (7.9 g, 45 mmol) in DCM (30 mL) was heated to reflux overnight. Aqueous solution of sodium thiosulfate (10 mL) was added. The solid was filtered from the mixture solution. The aqueous layer was extracted by ethyl acetate 3 times. The combined organic phase was washed with brine, dried over sodium sulfate and concentrated to give 2,2,2-trifluoro-N-(3-(2-(methylsulfonyl)ethyl)phenyl)acetamide (4 g, yield 89%). 1H NMR: 400 MHz CDCl3 δ 7.85 (s, 1H), 7.50-7.49 (m, 1H), 7.36-7.28 (m, 2H), 7.07-7.05 (m, 1H), 3.26-3.22 (m, 2H), 3.14-3.10 (m, 2H), 2.79 (s, 3H).

reactant | 2,2,2-trifluoro-N-(3-(2-(methylthio)ethyl)phenyl)acetamide | 15 mmol, 4 g | FC(C(=O)NC1=CC(=CC=C1)CCSC)(F)F | C11H12F3NOS
reactant | m-CPBA | 45 mmol, 7.9 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | 10 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-N-(3-(2-(methylsulfonyl)ethyl)phenyl)acetamide | 4 g, yield 89% | FC(C(=O)NC1=CC(=CC=C1)CCS(=O)(=O)C)(F)F | C11H12F3NO3S
